US04540806
13-Amino-5,6,7,8,9,10,11,12-octahydro-5-methyl-5,11-methanobenzocyclodecen-3,12-diol
To a stirred suspension 2 g. of lithium aluminum hydride (LAH) in 250 mL of tetrahydrofuran (THF) was added a slurry of 1 g. (0.003 mole) of 13-amino-6,7,8,9,10,11-hexahydro-3-hydroxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one hydrochloride dihydrate in 50 mL of THF over a period of 1 hour. The reaction mixture was refluxed for 25 hours and then cooled and excess LAH was decomposed by careful addition of 2 mL of water. The reaction mixture was filtered and the filtrate washed with aqueous ammonium chloride, dried (anhydrous Na2SO4) and evaporated under reduced pressure to afford a white residue which was recrystallized from acetone-ethanol (5:1) to afford 500 mg (68% yield) of the title compound, mp 232°-235° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 13-amino-6,7,8,9,10,11-hexahydro-3-hydroxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one hydrochloride dihydrate | 0.003 mole | O.O.Cl.NC1C2(CCCCCC1C(C1=C2C=C(C=C1)O)=O)C
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
product | 13-Amino-5,6,7,8,9,10,11,12-octahydro-5-methyl-5,11-methanobenzocyclodecen-3,12-diol | 500 mg, 68% yield | NC1C2(CCCCCC1C(C1=C2C=C(C=C1)O)O)C | C16H23NO2
